US04248891
1.93 g (83.9 mmoles) of metallic sodium powder were added in small portions into a solution of 1.00 g (4.83 mmoles) of 1-acetyltricyclo[4,3,1,12,5 ]undecane oxime in anhydrous ethanol (16 ml) kept under reflux with stirring over a period of 15 minutes. Then, the reaction mixture was heated under reflux for an additional 15 minutes and the mixture was allowed to cool. The reaction mixture was diluted with water (5 ml), then neutralized with 5% hydrochloric acid and then concentrated. The residue was made alkaline with 5% aqueous sodium hydroxide solution and then extracted with diethyl ether. The ether solution was dried and concentrated to afford 0.58 g (yield 62%) of 1-(1-aminoethyl)-tricyclo[4,3,1,12,5 ]undecane.

reactant | sodium | 83.9 mmoles, 1.93 g | [Na] | Na
reactant | 1-acetyltricyclo[4,3,1,12,5 ]undecane oxime | 4.83 mmoles, 1.00 g | C(C)(C12C3CCC(C(CCC1)C2)C3)=NO | C13H21NO
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 16 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 1-(1-aminoethyl)-tricyclo[4,3,1,12,5 ]undecane | 0.58 g, yield 62% | NC(C)C12C3CCC(C(CCC1)C2)C3 | C13H23N
